*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  Appshelp@galaxy.nsc.com

*////////////////////////////////////////
*LM7131B Operational Amplifier Macro-Model
*////////////////////////////////////////
*
* connections:  non-inverting input
*                  |      inverting input
*                  |      |      positive power supply
*                  |      |      |       negative power supply
*                  |      |      |       |      output
*                  |      |      |       |      |
*                  |      |      |       |      |
.SUBCKT LM7131B/NS 3      2      4       5      6
*
*Features
*Internal Frequency Compensation
*High Gain Bandwidth            70MHz
*Single Supply Operation
*******INPUT STAGE*********
RINB 2 18 1000
RINA 3 19 1000
DIN1 5 18 DMOD1
DIN2 18 4 DMOD1
DIN3 5 19 DMOD1
DIN4 19 4 DMOD1
*******INTERNAL BIAS SECTIONS*********
EXX 10 5 17 5 1.0
EEE 10 50 17 5 1.0
ECC 40 10 4 17 1.0
RAA 4 17 100MEG
RBB 17 5 100MEG
ISET 10 24 1e-3
DA1 24 23 DMOD1
RBAL 23 22 1000
ESUPP 22 21 4 5 1.0
VOFF 21 10 -1.25
DA2 24 25 DMOD1
VSENS1 25 26 DC 0
RSET 26 10 1K
CSET 26 10 1e-10
*******TEMP. DRIFT  EFFECTS *********
FSET 10 31 VSENS1 1.0
R001 34 10 1K
FTEMP 10 27 VSENS1 1.0
DTA 27 10 DMOD1
DTB 28 29 DMOD1
VTEMP 29 10 DC 0
********CMRR and PSRR SECTIONS*********
ECMR 38 10 11 10 1.0
VCMX 38 39 DC 0
RCM2 41 10 1MEG
EPSR 42 10 4 10 1.0
CDC1 43 42 10U
VPSX 43 44 DC 0
RPSR2 45 10 1MEG
*******INTERNAL GAIN STAGE*********
FCXX 57 10 VCXX 100
DCX1 98 97 DMOD1
DCX2 95 94 DMOD1
RCX1 99 98 100
RCX2 94 98 100
VCXX 99 96 DC 0
ECMX 96 10 11 10 1.0
DLIM1 52 57 DMOD1
DLIM2 57 51 DMOD1
ELIMP 51 10 26 10 99.3
GDM 10 57 3 2 1
C1 58 59 1e-10
DCLMP2 59 40 DMOD1
DCLMP1 50 59 DMOD1
RO2 59 10 1K
GO3 10 71 59 10 1
RO3 71 10 1
*******OUTPUT STAGE*********
DDN1 73 74 DMOD1
DDN2 73 710 DMOD1
DDP1 75 72 DMOD1
DDP2 71 720 DMOD1
RDN2 710 71 100
RDP 720 72 100
VOOP 40 76 DC 0
VOON 77 50 DC 0
QNO 76 73 78 NPN1
QNP 77 72 79 PNP1
RNO 78 81 1
RPO 79 81 1
VOX 86 6 DC 0
RNT 76 81 100MEG
RPT 81 77 1MEG
*******CURRENT BALANCE SECTION*********
FX 10 93 VOX 1.0
DFX1 93 91 DMOD1
VFX1 91 10 DC 0
DFX2 92 93 DMOD1
VFX2 10 92 DC 0
FPX 4 10 VFX1 1.0
FNX 10 5 VFX2 1.0
*******VARIABLE SECTION*********
FIN1 18 5 VTEMP 0.999975
FIN2 19 5 VTEMP 1.00002
* Input Bias Currents
CIN1 2 10 1e-12
CIN2 3 10 1e-12
* C-M Input Capacitance
RD1 18 11 5e+06
RD2 19 11 5e+06
* Diff.  Input Resistance
RCM 11 10 7.5e+06
* C-M.  Input Resistance
GOS 10 57 31 32 0.007
* Input Offset Voltage
FCMR 10 57 VCMX 10
*Low Freq. CMRR
FPSR 10 57 VPSX 632.456
*Low Freq. PSRR
RSLOPE 4 5 7194.24
*Slope of  Supply Current vs. Supp. Voltage
GPWR 4 5 26 10 0.006383
*Quiescent Power Diss.
ETEMP 27 28 32 33 0.101048
RVOS 31 32 MRVOS 1K
.MODEL MRVOS RES (TC1=0.02)
*Temp. Co. of Offset Voltage
RIB 32 33 MRIB 1K
.MODEL MRIB RES (TC1=0.000704658)
*Temp. Co. of Input Bias Current
RISC 33 34 MRISC 1K
.MODEL MRISC RES (TC1=0)
RCM1 39 41 316.228
CCM 41 10 1.59155e-11
* CMRR vs. Freq.
RPSR1 44 45 316.228
CPSR 45 10 7.95775e-11
* PSRR vs. Freq.
ELIMN 10 52 26 10 99.3
RDM 57 10 531.565
C2 57 557 6.30418e-12
RZERO  557  10   500
ECMP 40 97 26 10 1.5
ECMN 95 50 26 10 0.5
G2 58 10 57 10 0.00012
R2 58 10 15.677
GO2 59 10 58 10 1
*Slew-Rate and AC Resp. Settings
EPOS 40 74 26 10 0.2
ENEG 75 50 26 10 0.15
*Output Voltage Swing Settings
GSOURCE 74 73 33 34 0.00065
GSINK 72 75 33 34 0.0004
*Output Current Sink/Source Settings
ROO 81 86 7.5
*Output Resistance Setting
.MODEL DMOD1 D
.MODEL NPN1 NPN (BF=100 IS=1e-15)
.MODEL PNP1 PNP (BF=100 IS=1e-15)
.ENDS 
*
*$
